US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(5-methoxy-6-methyl-pyridine-2-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60 from 120 mg (0.30 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 1 mL THF and 164 mg (0.66 mmol) of 6-iodo-3-methoxy-2-methyl-pyridine in 1 mL THF with 0.34 mL 2M isopropylmagnesium chloride. Yield: 60 mg of a white powder. LC-MSD, m/z for C23H18BrN3O3 [M+H]+=464.0, 466.0; HPLC retention time: 1.9 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.30 mmol, 120 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
reactant | 6-iodo-3-methoxy-2-methyl-pyridine | 0.66 mmol, 164 mg | IC1=CC=C(C(=N1)C)OC | C7H8INO
reactant | isopropylmagnesium chloride | 2M, 0.34 mL | C(C)(C)[Mg]Cl
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(5-methoxy-6-methyl-pyridine-2-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C1=NC(=C(C=C1)OC)C | C23H18BrN3O3
